US07781591B2
A solution of tert-butyl 4-[(2-{4-[(7-chloro-4-methyl-1H-indol-5-yl)amino]-5-cyanopyridin-3-yl}-1-benzofuran-5-yl)methyl]piperazine-1-carboxylate (176 mg, 0.29 mmol) in CH2Cl2 (4 mL) and trifluoroacetic acid (2 mL) was stirred at room temperature for 4 h and concentrated to provide 4-[(7-chloro-4-methyl-1H-indol-5-yl)amino]-5-[5-(piperazin-1-ylmethyl)-1-benzofuran-2-yl]nicotinonitrile as a yellow solid in quantitative yield (182 mg). HPLC retention time: 6.5 min.(g); MS: 497.3 (M+H); and HRMS: 497.1851.

reactant | tert-butyl 4-[(2-{4-[(7-chloro-4-methyl-1H-indol-5-yl)amino]-5-cyanopyridin-3-yl}-1-benzofuran-5-yl)methyl]piperazine-1-carboxylate | 0.29 mmol, 176 mg | ClC=1C=C(C(=C2C=CNC12)C)NC1=C(C=NC=C1C#N)C=1OC2=C(C1)C=C(C=C2)CN2CCN(CC2)C(=O)OC(C)(C)C | C33H33ClN6O3
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
solvent | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 4-[(7-chloro-4-methyl-1H-indol-5-yl)amino]-5-[5-(piperazin-1-ylmethyl)-1-benzofuran-2-yl]nicotinonitrile | quantitative yield | ClC=1C=C(C(=C2C=CNC12)C)NC1=C(C=NC=C1C#N)C=1OC2=C(C1)C=C(C=C2)CN2CCNCC2 | C28H25ClN6O
